US04496720
3.75 ml (18 mmoles) of hexamethyldisilazane were added at reflux to a solution of 2.83 g (24.4 mmoles) of 5-mercapto-1-methyl-1H-tetrazole and 50 mg (0.28 mmole) of saccharin in 30 ml of acetonitrile and after refluxing for 90 minutes, the reaction mixture was evaporated to dryness to obtain 1-methyl-5-trimethylsilylthio-1H-tetrazole as a liquid with a refractive index nD25 =1.5175.

reactant | hexamethyldisilazane | 18 mmoles, 3.75 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | 5-mercapto-1-methyl-1H-tetrazole | 24.4 mmoles, 2.83 g | SC1=NN=NN1C | C2H4N4S
reactant | saccharin | 0.28 mmole, 50 mg | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 1-methyl-5-trimethylsilylthio-1H-tetrazole | CN1N=NN=C1S[Si](C)(C)C | C5H12N4SSi
